US08022062B2
1-Methyl-4-(3,3,3-trifluoro-2-methyl-2-trifluoromethylpropylthio)benzene:
In a sealed tube dissolve 4-methylbenzenethiol (4.13 g, 33.2 mmol) in DMF (20 mL) at ambient temperature. Add portionwise with stirring sodium hydride (899 mg, 37.5 mmol) followed by tetrabutylammonium iodide (82 mg, 0.22 mmol) and a solution of methanesulfonic acid 3,3,3-trifluoro-2-methyl-2-trifluoromethylpropyl ester (6.16 g, 22.5 mmol) in DMF (10 mL). Stir at 150° C. overnight, cool the mixture to ambient temperature and dilute cautiously with water. Extract three times with EtOAc, dry over anhydrous Na2SO4, and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane to give the desired intermediate as a yellow oil (4.5 g, 62%).

reactant | 4-methylbenzenethiol | 33.2 mmol, 4.13 g | CC1=CC=C(C=C1)S | C7H8S
reactant | sodium hydride | 37.5 mmol, 899 mg | [H-].[Na+]
reactant | methanesulfonic acid 3,3,3-trifluoro-2-methyl-2-trifluoromethylpropyl ester | 22.5 mmol, 6.16 g | FC(C(COS(=O)(=O)C)(C(F)(F)F)C)(F)F | C6H8F6O3S
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 0.22 mmol, 82 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-Methyl-4-(3,3,3-trifluoro-2-methyl-2-trifluoromethylpropylthio)benzene | 4.5 g, 62% | CC1=CC=C(C=C1)SCC(C(F)(F)F)(C(F)(F)F)C | C12H12F6S
